* /home/bhargav/downloads/esim-1.1.2/src/subcircuitlibrary/ujt/ujt.cir

.include emitter.lib
r3  gnd 6 1000k
c1  5 7 35p
r1  7 2 38.15
r2  3 5 2.518k
* u1  1 2 3 port
b1  5 7 i=0.00028*v(5,7)+0.00575*v(5,7)*v(6)
d1 1 4 emitter
* h1
Vh1 4 5 0
h1 6 gnd Vh1 1k
.tran 5e-06 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
