* /home/bhargav/downloads/esim-1.1.2/src/subcircuitlibrary/ujt/ujt.cir

.include emitter.lib
r3  /0 /6 1000k
* h1
c1  /5 /7 35p
r1  /7 /2 38.15k
r2  /3 /5 2.518k
* u1  /1 /2 /3 port
b1  /5 /7 i=0.00028*v(5,7)+0.00575*v(5,7)*v(6)
d1 /1 /4 emitter
Vh1 /4 /5 0
h1 /6 /0 Vh1 1k
.tran 5e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
